US03993660
In the manner given in Example 21, 5-chloro-[3-methyl-5-(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone was reacted with methanesulfonyl chloride in the presence of triethylamine and the resulting solution, treated with gaseous dimethylamine in the presence of potassium iodide, to give 5-chloro-2-[3-methyl-5-(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone of melting point 171°-172°.

reactant | 5-chloro-[3-methyl-5-(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CO)C | C17H14ClN3O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylamine | CNC | C2H7N
reactant | potassium iodide | [I-].[K+]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
